US05521179
To a solution of 2-(3-benzyloxycarbonylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (2.41 g) in dry tetrahydrofuran (8 mL) was added 10% (w/w) palladium-on-carbon (0.50 g) in dry tetrahydrofuran (8 mL) under nitrogen. This mixture was stirred under hydrogen at atmospheric pressure for 5 h. The catalyst was removed by filtration through a plug of diatomaceous earth and the plug was washed with ethanol. The filtrate was evaporated and dried under vacuum to give 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (1.78 g); TLC: Rf =0.06, ethyl acetate:dichloromethane (6:94); MS: m/z=512(M+1).

reactant | 2-(3-benzyloxycarbonylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 2.41 g | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C33H42F3N3O5Si
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | 0.50 g | [Pd] | Pd
product | 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 1.78 g | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C25H36F3N3O3Si
